US09216943B2
N-(1-Hydroxy-2-(hydroxymethyl)-4-(4-octylphenyl)butan-2-yl) acetamide (23.5 g) is charged into a 250 mL single-neck round bottom flask equipped with a condenser and 3N hydrochloric acid (100 mL) is added. The mixture is heated to 100° C. and stirred for 3 hours. The mass is cooled to room temperature and maintained overnight. The mass is extracted with ethyl acetate (3×100 mL) and the ethyl acetate extracts are combined, dried with sodium sulphate, and concentrated under vacuum to produce a gummy solid. Ethanolic hydrochloride solution is added to the solid, stirred for 3 hours at room temperature and the obtained solid is separated by filtration and suction dried. The solid is recrystallized from an isopropyl alcohol solution to give fingolimod hydrochloride. Yield: 5.7 g.

reactant | N-(1-Hydroxy-2-(hydroxymethyl)-4-(4-octylphenyl)butan-2-yl) acetamide | 23.5 g | OCC(CCC1=CC=C(C=C1)CCCCCCCC)(CO)NC(C)=O | C21H35NO3
reactant | hydrochloric acid | 3N, 100 mL | Cl | ClH
product | fingolimod hydrochloride | CCCCCCCCC=1C=CC(=CC1)CCC(CO)(CO)N.Cl | InChI=1S/C19H33NO2.ClH/c1-2-3-4-5-6-7-8-17-9-11-18(12-10-17)13-14-19(20,15-21)16-22;/h9-12,21-22H,2-8,13-16,20H2,1H3;1H
